Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil
 
Attending: ___.
 
Chief Complaint:
fever to 100.8 F, lethargy
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with complicated abdominal surgery history including recent 
inpatient admission for intestinal perforation, CVA with 
residual mild L sided weakness, DVT and PE on warfarin who 
presents with concern for altered mental status, general body 
ache and temperature as hish as 100.8 per nursing home report. 

She was recently discharged from ___ on ___. She has had abd 
pain for ___ weeks that is tolerable on methadone and dilaudid. 
In recent days she developed "total body ache" that she cannot 
localize well assoc with worsening abd pain. She reports sharp, 
achy pain on the right side of her abdomen. Per rehab 
documentation, she was noted to be more lethargic than her 
baseline with low grade temperature elevations to 100.8F. Pt 
denies diarrhea or constipation, is passing gas. She denies SOB 
or cough. Endorses poor PO intake for the past 2 days.

In the ED her vitals were 98.2 F, BP ___, HR ___, 99% RA. 
Labs showed chronic anemia, WBC 10.4, INR 2.8, lactate 1.6, 
AST/ALT 42/31 and WNL Chem7. Imaging showed improved abdomen, 
concern for atelectasis vs PNA. She was given 2 mg IV dilaudid, 
Zofran, 2 L IVF, levaquin 500 mg and cipro 400 mg. 

 
 
Past Medical History:
- Pneumonia
- Morbid obesity status post gastric bypass and cholecystectomy 
in ___ with subsequent reversal surgery at the ___ - 
multiple prior abdominal surgeries including a J-tube in ___ 
with apparent complication of a perforated colon.  
- History of recurrent esophageal candidiasis s/p treatment  
- History of hypertension, DM, and asthma prior to gastric 
bypass.  
- DVT and PE in ___ on warfarin.  
- CVA with residual Lt sided weakness and slurred speech  
- History of SBO  
- Chronic pain  
- History of opiate addiction: prior intranasal heroin, oral 
dilaudid abuse, on methaone.  
- Degenerative disc disease  
- Depression/anxiety  

 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
ON ADMISSION: 

Vitals: T: 98.1 F, BP: 100s/80s P: 80s R: 18 O2: 100% ra   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, TTP in RUQ, mildly distended but not tympanitic, 
no rebound tenderness.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

ON DISCHARGE: 

Vitals: T: 98.1 F, BP: 100s/60s P: 70s R: 18 O2: 100% ra   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM  
Neck: supple, JVP not elevated, no LAD  
Lungs: Soft crackles in lung bases b/l   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, + BS, mildly distended but not tympanitic, no 
rebound tenderness.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
==ON ADMISSION==

___ 03:40PM BLOOD WBC-10.4* RBC-2.71* Hgb-8.5* Hct-26.8* 
MCV-99* MCH-31.4 MCHC-31.7* RDW-14.7 RDWSD-53.4* Plt ___
___ 03:40PM BLOOD Neuts-78.4* Lymphs-14.5* Monos-5.2 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-8.13*# AbsLymp-1.50 
AbsMono-0.54 AbsEos-0.12 AbsBaso-0.03
___ 03:40PM BLOOD ___ PTT-42.4* ___
___ 03:40PM BLOOD Plt ___
___ 03:05PM BLOOD Glucose-75 UreaN-12 Creat-0.7 Na-139 
K-4.2 Cl-101 HCO3-27 AnGap-15
___ 03:05PM BLOOD ALT-31 AST-42* AlkPhos-104 TotBili-0.3
___ 03:05PM BLOOD Lipase-9
___ 03:05PM BLOOD Albumin-3.2* Calcium-8.6 Phos-3.6 Mg-1.7
___ 03:14PM BLOOD Lactate-1.6

==INTERIM LABS==

___ 06:40AM BLOOD WBC-3.9* RBC-2.87* Hgb-9.1* Hct-32.8* 
MCV-114*# MCH-31.7 MCHC-27.7* RDW-15.4 RDWSD-64.0* Plt ___
___ 07:00AM BLOOD WBC-7.4 RBC-2.59* Hgb-8.1* Hct-26.5* 
MCV-102* MCH-31.3 MCHC-30.6* RDW-14.9 RDWSD-55.8* Plt ___
___ 06:33AM BLOOD ___ PTT-39.5* ___
___ 07:00AM BLOOD ___ PTT-40.2* ___
___ 06:33AM BLOOD Ret Aut-2.4* Abs Ret-0.07
___ 07:00AM BLOOD ALT-23 AST-27 AlkPhos-90 TotBili-0.3

==MICRO==

BLOOD AND URINE CULTURES STILL PENDING AT TIME OF DISCHARGE 

==DISCHARGE LABS==

___ 06:33AM BLOOD WBC-4.6 RBC-2.87* Hgb-9.0* Hct-31.0* 
MCV-108* MCH-31.4 MCHC-29.0* RDW-15.0 RDWSD-59.7* Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD ___ PTT-39.5* ___
___ 06:33AM BLOOD Glucose-80 UreaN-12 Creat-0.6 Na-140 
K-4.1 Cl-104 HCO3-26 AnGap-14
___ 06:33AM BLOOD Calcium-8.7 Phos-3.9 Mg-1.6

==OTHER RESULTS==

CXR ___ :

Cardiomediastinal silhouette is within normal limits.  There is 
a hazy opacity at the left base which may represent atelectasis 
or developing infiltrate. Followup to resolution is recommended. 
There are no pneumothoraces. 
 
CXR ___: 

No acute cardiopulmonary process.

CT ABDOMEN PELVIS ___: 

1. Scattered opacity at the left lung base could represent 
aspiration or early pneumonia in the proper clinical setting.  
This finding could also be related to splinting due to abdominal 
pain. 
2. Mild heterogeneity of the liver and periportal edema may be 
related to the aggressive IV hydration.  Prominence of the intra 
and extrahepatic biliary ducts as detailed on prior for which 
MRCP or ERCP can be considered. 
3. Interval resolution of previously seen pneumoperitoneum 
without evidence of perforation on the present study. 

 
Brief Hospital Course:
___ with complicated abdominal surgical history who presents 
with lethargy, low grade temperatures and concern by the ED for 
HCAP.  

# Low grade temperature, lethargy: The pt did not present with a 
fever or leukocytosis, so after she had one dose of Cipro and 
Levaquin in the ED, she was monitored for signs and symptoms of 
pneumonia. On hospital day 2, she began to complain of increased 
SOB and non-productive cough. CXR showed opacification at the 
LLL and she was started on a 5 day course of Levaquin to be 
completed on ___ in the outpatient setting. Blood and urine 
cultures are still pending. She had no other signs of infection; 
UA was negative, she had dilated biliary ducts that in the 
setting of normal LFTs were unconcerning for cholangitis given 
her presentation. 

# abd pain: the pt also presented with chronic abdominal pain 
that was at the level that it normally was at her nursing home. 
CT AP showed no cause for concern for acute pathology. Her 
abdominal pain was believed to be due to strictures and 
manipulation of the abdomen from multiple abdominal surgeries. 
The pt had a history of opiate abuse, and presented from rehab 
on 20 mg methadone TID and dilaudid ___ mg PO q4h for pain. 
During her hospitalization she was noted to be more drowsy with 
a respiratory rate of 12 overnight so her dilaudid was decreased 
to ___ mg PO q4h as needed for pain. She was also treated with 
Tylenol q8h. 

CHRONIC ISSUES 

# History of DVT/PE: the pt reported that she is on life-long 
anticoagulation for DVT/PE. She reported that about 1 week prior 
to admission, she had noticed swelling in her right leg at the 
nursing home. She also reported mild "throbbing" pain in the 
RLE. There was no swelling or warmth on exam, and the patient 
continued to be therapeutic on her warfarin. 
 
# Chronic pain, anxiety: the pt was continued on her home 
gabapentin, clonazepam.

***Transitional issues***: 
- Pneumonia: pt was started on Levaquin ___, end date is 
___. CXR on ___ showed opacification at the LLL, this should 
be followed up to resolution with a repeat CXR greater than 6 
weeks in the future. 
- dilated biliary ducts: seen on CT AP. While this could be 
chronic, MRCP or ERCP should be considered in the future
-During this hospitalization, there were times when the patient 
appeared very somnolent after her home medications were 
administered. There is concern that she may be overmedicated 
with opioids and other sedating meds. Please consider tapering 
dilaudid, methadone, clonopin and Seroquel.

FULL CODE 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. FoLIC Acid 1 mg PO DAILY 
3. Gabapentin 300 mg PO TID Chronic pain 
4. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
5. Methadone 20 mg PO TID 
6. Pantoprazole 40 mg PO Q12H 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. QUEtiapine extended-release 300 mg PO QHS 
9. QUEtiapine extended-release 100 mg PO QAM 
10. Senna 8.6 mg PO BID 
11. ___  MD to order daily dose PO DAILY16 
12. Thiamine 100 mg PO DAILY 
13. Ascorbic Acid ___ mg PO DAILY 
14. BuPROPion (Sustained Release) 150 mg PO BID 
15. ClonazePAM 0.5 mg PO QAM 
16. ClonazePAM 1 mg PO DAILY 
17. ClonazePAM 1.5 mg PO QHS 
18. Docusate Sodium 100 mg PO BID 
19. Ferrous Sulfate 325 mg PO DAILY 
20. Miconazole Powder 2% 1 Appl TP TID:PRN groin rash 
21. Vitamin D 50,000 UNIT PO MONTHLY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Ascorbic Acid ___ mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. ClonazePAM 0.5 mg PO QAM 
5. ClonazePAM 1 mg PO DAILY 
6. ClonazePAM 1.5 mg PO QHS 
7. Docusate Sodium 100 mg PO BID 
8. FoLIC Acid 1 mg PO DAILY 
9. Gabapentin 300 mg PO TID Chronic pain 
10. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ mg by mouth every four 
hours as needed Disp #*360 Tablet Refills:*0
11. Methadone 20 mg PO TID 
RX *methadone 10 mg 2 tablets by mouth three times daily Disp 
#*180 Tablet Refills:*0
12. Pantoprazole 40 mg PO Q12H 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. QUEtiapine extended-release 300 mg PO QHS 
15. QUEtiapine extended-release 100 mg PO QAM 
16. Senna 8.6 mg PO BID 
17. Thiamine 100 mg PO DAILY 
18. Warfarin 7 mg PO DAILY16 
19. Levofloxacin 750 mg PO DAILY Duration: 5 Days 
20. Ferrous Sulfate 325 mg PO DAILY 
21. Miconazole Powder 2% 1 Appl TP TID:PRN groin rash 
22. Vitamin D 50,000 UNIT PO MONTHLY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Pneumonia 

Secondary diagnosis: 
Chronic abdominal pain 
CVA with residual mild L sided weakness
DVT and PE on warfarin 

 
Discharge Condition:
Activity Status: Wheelchair bound 
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because of concern for an infection. 
You had a fever to 100.8 F at your rehab facility. You were 
treated with one dose of antibiotics in the emergency department 
and stayed in the hospital for monitoring. You were treated with 
your home medications and started on Levaquin, an antibiotic for 
your pneumonia. 

It was a pleasure taking care of you and we wish you the best! 

Sincerely,
Your ___ team 
 
Followup Instructions:
___